US08669234B2
4-Chlorocarbonyl-piperidine-1-carboxylic acid benzyl ester (43 g, 0.15 mol) in dichloromethane (300 mL) was treated with (trimethylsilyl)diazomethane (2.0 M in hexanes, 150 mL, 0.31 mol) over 15 min. The reaction mixture was stirred at ambient temperature for 18 hours and the mixture was concentrated to afford crude 4-(2-diazo-acetyl)-piperidine-1-carboxylic acid benzyl ester (44 g), which was used without further purification.

reactant | 4-Chlorocarbonyl-piperidine-1-carboxylic acid benzyl ester | 0.15 mol, 43 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(=O)Cl | C14H16ClNO3
reactant | (trimethylsilyl)diazomethane | 0.31 mol, 2.0 M, 150 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | 4-(2-diazo-acetyl)-piperidine-1-carboxylic acid benzyl ester | 44 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(C=[N+]=[N-])=O | C15H17N3O3
